US03962378
2-hydroxyethane-phosphonic acid dimethyl ester
A solution of 50 g of 2-acetoxyethane phosphonic acid dimethyl ester in 100 ml of anhydrous methanol is heated to 65°-70°C for 5 hours, while adding one drop of concentrated sulfuric acid. A mixture of methyl acetate/methanol is removed continuously by distillation in the course of the reaction. After a distillation under reduced pressure 33.5 g of 2-hydroxyethane-phosphonic acid dimethyl ester are obtained, corresponding to a yield of 85% of the theoretical.

reactant | 2-acetoxyethane phosphonic acid dimethyl ester | 50 g | COP(OC)(=O)CCOC(C)=O | C6H13O5P
reactant | methyl acetate methanol | C(C)(=O)OC.CO
solvent | methanol | 100 ml | CO | CH4O
catalyst | sulfuric acid | one drop | S(O)(O)(=O)=O | H2O4S
product | 2-hydroxyethane-phosphonic acid dimethyl ester | yield of 85% | COP(OC)(=O)CCO | C4H11O4P
